.include TSMC_180nm.txt
.include AND.sub
.include NOT.sub

.subckt DECODER S0 S1 D0 D1 D2 D3 vdd gnd
* finding complements of S0 and S1

X_S0c S0 S0c vdd gnd NOT
X_S1c S1 S1c vdd gnd NOT
X_D0 S0c S1c D0 vdd gnd AND
X_D1 S1c S0 D1 vdd gnd AND
X_D2 S0c S1 D2 vdd gnd AND
X_D3 S0 S1 D3 vdd gnd AND

.ends DECODER