.include TSMC_180nm.txt 
.include AND.sub
.subckt ENABLE A3 A2 A1 A0 B3 B2 B1 B0 D A3e A2e A1e A0e B3e B2e B1e B0e vdd gnd
X_A0 A0 D A0e vdd gnd AND
X_A1 A1 D A1e vdd gnd AND
X_A2 A2 D A2e vdd gnd AND
X_A3 A3 D A3e vdd gnd AND

X_B0 B0 D B0e vdd gnd AND
X_B1 B1 D B1e vdd gnd AND
X_B2 B2 D B2e vdd gnd AND
X_B3 B3 D B3e vdd gnd AND

.ends ENABLE