** IMPLEMENTATION OF XOR USING NAND, NOT gates
.include TSMC_180nm.txt
.include XOR.sub
.include NOT.sub

.subckt XNOR input_A input_B output vdd gnd 
X_finding_XOR input_A input_B output_xor vdd gnd XOR
X_XNOR output_xor output vdd gnd NOT

.ends XNOR
