** IMPLEMENTATION OF XOR USING NAND, NOT gates
.include TSMC_180nm.txt
.include NOT.sub
.include NAND.sub

.subckt XOR input_A input_B output vdd gnd 
X_not_A input_A output_Ac vdd gnd NOT
X_not_B input_B output_Bc vdd gnd NOT
X_NAND_Ac_B output_Ac input_B output_A_or_Bc vdd gnd NAND
X_NAND_A_Bc output_Bc input_A output_Ac_or_B vdd gnd NAND
X_XOR output_A_or_Bc output_Ac_or_B output vdd gnd NAND
.ends XOR
