.include TSMC_180nm.txt
.include XOR.sub
.subckt three_input_xor input_A input_B input_C output vdd gnd
X_xor_first_two input_A input_B output_xor_first_two vdd gnd XOR
X_final_result input_C output_xor_first_two output vdd gnd XOR

.ends three_input_xor